US04495190
Preparation of 4-bromo-2-hydroxybutyric acid ethyl ester
2-hydroxybutyrolactone, Brit. Pat. No. 688.253 [C A 48, p.3996 (1954)], (5.1 g) was dissolved in 10 ml ethanol and the solution was saturated with hydrogenbromide at 0° C. After standing at room temperature during 66 hours, the solvent was evaporated at a low pressure. The residue was mixed with ice-water and the mixture neutralized with 10% aqueous sodium carbonate. The mixture was then extracted several times with diethyl ether and the combined ether extracts washed with saturated, aqueous sodium sulphate and dried over anhydrous sodium sulphate. After evaporation of the solvent, the residue was distilled at 12 mm Hg. The fraction boiling at 109°-112° C. weighing 3,79 g was used in example 2 below.

reactant | 2-hydroxybutyrolactone | OC1C(=O)OCC1 | C4H6O3
reactant | hydrogenbromide | Br | BrH
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 4-bromo-2-hydroxybutyric acid ethyl ester | C(C)OC(C(CCBr)O)=O | C6H11BrO3
